US08809372B2
Using 5-(4-fluorophenyl)thiazole-2-carbaldehyde (0.12 g, 0.58 mmol) and EtMgBr (0.577 mL, 1.73 mmol) and following the procedure described for example 7 and step 2, the crude compound was obtained and further purified by column chromatography (using 100-200μ silica gel and 38% ethyl acetate and hexane) to give 1-(5-(4-fluorophenyl)thiazol-2-yl)propan-1-ol as pale yellow liquid (0.1 g, 73% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.01 (s, 1H), 7.68-7.65 (m, 2H), 7.25 (t, 2H), 6.11 (d, 1H), 4.72-4.67 (m, 1H), 1.84 (m, 1H), 1.88-1.67 (m, 1H), 0.91 (t, 3H); LC-MS m/z calculated for [M+H]+ 238.06, found 238.5.

reactant | 5-(4-fluorophenyl)thiazole-2-carbaldehyde | 0.58 mmol, 0.12 g | FC1=CC=C(C=C1)C1=CN=C(S1)C=O | C10H6FNOS
reactant | EtMgBr | 1.73 mmol, 0.577 mL | CC[Mg+].[Br-]
product | 1-(5-(4-fluorophenyl)thiazol-2-yl)propan-1-ol | 0.1 g, 73% yield | FC1=CC=C(C=C1)C1=CN=C(S1)C(CC)O | C12H12FNOS
